Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Fever and chilss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is an ___ year old man with type I diabetes c/b diabetic
retinopathy, HLD, HTN, CKD, CVA who presents from home with
fevers/chills, fatigue, and unsteady gait. On ___ Mr. ___
had a dental surgery to have dental implants placed. The
procedure was completed without incident. Since the procedure he
has been on amoxicillin and vicoden. On ___, while walking
his dog, Mr. ___ noticed worsening fatigue. After returning 
home
he also began having fever and chills. He describes feeling
"numb" and foggy but denies any changes in sensation or any 
pain.
He also began to have gait unsteadiness. Mr. ___ went to the
PCP's office on ___ where he was febrile to 101.2F, and was
subsequently referred to the ED for further evaluation. Mr. ___
denies any cough, shortness of breath or chest pain. He denies
any changes in urinary frequency or dysuria. He had one episode
of dark colored emesis. He denies any changes in his bowel
movements or abdominal pain.

On arrival at the ED the patient was febrile to 102.6F with mild
tachycardia. Temperature and heart rate improved with IVF. Pt 
was
start on Unasyn (___), and has since received 4 total doses.
Chest radiograph did not show focal consolidation to suggest
pneumonia. CT head w/o contrast showed no acute processes. A CT
sinus/maxillofacial showed "1.1 x 1.0 cm rim enhancing rounded
lesion in the right aspect of the pre epiglottic space, which 
may
represent retained secretions, debris or foreign body. However,
mass lesion cannot be excluded. Direct visualization is
recommended." Pt was seen by ENT, who recommended admission to
medicine for further work-up of abscess vs malignancy.  
 
Upon arrival to the floor, the patient reports feeling improved,
but very cold and was shivering. He had one episode of nausea 
but
did not vomit.  

He denies any cough, shortness of breath, abdominal pain,
suprapubic pain, dysuria, urinary frequency, melena.

 
Past Medical History:
PMH/PSH:
 Type I diabetes mellitus, h/o diabetic retinopathy  
 Hypertension  
 Hyperlipidemia  
 h/o small vessel CVA  
 Chronic kidney disease  
 Macular degeneration  

 
Social History:
___
Family History:
FH: Sister and cousins on father's side had CAD 
 
Physical Exam:
ADMISSION

PHYSICAL EXAM:
VITALS: T99.2 BP126/70 HR65 RR20 Sat97 ra 
GENERAL: appearing tired, experiencing rigors 
EYES: slight ptosis in the left eye, EOMI
ENT: MMM
CV: regular rate and rhythm, normal s1 s2, murmurs not
appreciated
RESP: lungs clear to auscultation bilaterally, no wheezes,
crackles, or ronchi
GI: soft nontender nondistended, no organomegaly
GU: no foley
SKIN: no rashes
NEURO: CNII-XII grossly intact, gait deferred
EXTR: warm and well perfused, 2+ pulses bilaterally, no edema

DISCHARGE
PHYSICAL EXAM:
VITALS: T99.8 BP167/72 HR69 RR18 Sat97Ra FSBG78-180 (last 24hr) 
GENERAL: tired appearing, in no acute distress
CV: regular rate and rhythm, normal s1 and s2, no murmurs
appreciated, no rubs or gallops.
RESP: clear to auscultation bilaterally, no wheezes, crackles, 
or
ronchi
GI: soft non tender, non distended, no rebounding, no guarding,
no organomegaly
ORAL: non erythematous, no lesions, no masses
EXT: warm and well-perfused, 2+ pulses bilaterally, no edema

 
Pertinent Results:
ADMISSION

___ 06:30PM BLOOD WBC-7.6 RBC-4.02* Hgb-12.4* Hct-35.9* 
MCV-89 MCH-30.8 MCHC-34.5 RDW-12.6 RDWSD-41.0 Plt ___
___ 06:30PM BLOOD Neuts-70.8 Lymphs-12.3* Monos-15.3* 
Eos-0.0* Baso-1.1* Im ___ AbsNeut-5.36 AbsLymp-0.93* 
AbsMono-1.16* AbsEos-0.00* AbsBaso-0.08
___ 06:30PM BLOOD Plt ___
___ 06:30PM BLOOD Glucose-200* UreaN-38* Creat-1.4* Na-133 
K-3.9 Cl-90* HCO3-24 AnGap-19*
___ 06:30PM BLOOD Calcium-8.7 Phos-3.9 Mg-2.2.

DISCHARGE

___ 07:30AM BLOOD WBC-6.5 RBC-3.47* Hgb-11.0* Hct-31.7* 
MCV-91 MCH-31.7 MCHC-34.7 RDW-12.8 RDWSD-41.7 Plt ___
___ 07:30AM BLOOD Glucose-104* UreaN-21* Creat-1.0 Na-136 
K-4.1 Cl-98 HCO3-22 AnGap-16
___ 07:30AM BLOOD Calcium-8.1* Phos-2.6* Mg-2.0
___ 06:39PM BLOOD Lactate-1.2
 
Brief Hospital Course:
Mr. ___ is an ___ year old man with T1D, HLD, HTN, CKD who 
presented with fever/chills and fatigue in the setting of recent 
dental surgery. Blood cultures were negative. He was treated 
with PO and IV antibiotics for suspected transient bacteremia. A 
CT sinus/maxillofacial taken during workup showed "1.1 x 1.0 cm 
rim enhancing rounded lesion in the right aspect of the pre 
epiglottic space. Workup ruled out abscess, however, additional 
workup is needed to rule out malignancy. 

ACUTE ISSUES
====================
#FEVER
On arrival at the ED the patient was febrile to 102.6F with mild 
tachycardia. Pt was start on Unasyn (___). Chest radiograph did 
not show focal consolidation to suggest pneumonia. On the floor 
the patient continued to be febrile, Tmax of 103.2F on ___ 
in the afternoon. One dose of IV vancomycin was given, however, 
it was discontinued given low suspicion for MRSA infection. 
Patient defervesced 11pm ___, and remained afebrile for the 
remainder of his hospital stay. Blood cultures were drawn 3x and 
have all been negative to date. He was switched to PO 
cipro/flagyl to be continued for a total 7 day course until ___ 
for treatment of suspected transient bacteremia.

#RIGHT TONGUE BASE MASS 
CT maxillofacial showed no abscesses or drainable collections 
but does show a 1x1cm rim-enhancing mass in the right base of 
tongue. On fiberoptic exam this mass is approximately 1cm, pink, 
heaped up mucosal appearing tissue without ulceration. He should 
follow-up with ENT as an outpatient. 

#HTN: 
Home irbestartan was held at admission in the setting of 
infection and concern for sepsis. Patient had high blood 
pressure measurements during hospitalization. Losartan 150mg was 
initiated after improvement of his bacteremia symptoms. 

#CKD, STAGE IIIb: baseline Cr 1.1-1.4; Cr 1.4 on admission, 1.0 
at discharge.

CHRONIC ISSUES
====================

CHRONIC/STABLE PROBLEMS: 
#TYPE I DIABETES: most recent A1c 6.6 on ___. On qHS lantus 
with lispro sliding scale at home. Glargine was decreased to 12U 
qHS due to hypoglycemic episode to ___ yesterday (___) 
morning. Should consider re-increasing glargine if hyperglycemic 
as an outpatient. 

#HYPERLIPIDEMIA
Continued home simvastatin 20mg and home ASA 325mg 

#CRAMPS
Continued GABAPENTIN 300 MG CAP take ___ tabs qHS:PRN cramps 

Transitional Issues 

[ ]Glargine was decreased to 12 units, consider re-increasing if 
hyperglycemic. 
[ ]Continue Ciprofloxacin HCl 500 mg PO/NG every 12 hours and 
Metronidazole 500 mg every 8 hours until ___
[ ] Follow-up with ENT regarding 1 cm tongue mass found on CT at 
R base of tongue. 

CODE: Full
Contact: ___ (daughter)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 16 Units Bedtime
2. Simvastatin 20 mg PO QPM 
3. TraZODone 50 mg PO QHS 
4. Gabapentin 300 mg PO QHS: PRN cramps 
5. Aspirin 325 mg PO DAILY 
6. Chlorthalidone 12.5 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. irbesartan 300 mg oral daily 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO/NG TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*8 Tablet Refills:*0 
3.  Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Aspirin 325 mg PO DAILY  
5.  Chlorthalidone 12.5 mg PO DAILY  
6.  Clopidogrel 75 mg PO DAILY  
7.  Gabapentin 300 mg PO QHS: PRN cramps  
8.  irbesartan 300 mg oral daily  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
10.  Multivitamins 1 TAB PO DAILY  
11.  Simvastatin 20 mg PO QPM  
12.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
Transient bacteremia
Right tongue base mass

Secondary
CKD
Hypertension
Diabetes Mellitus
Hyperlipidemia  
 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were home with 
fevers and fatigue.  You were found to have a bloodstream 
infection which appeared to be transient possibly caused from a 
dental procedure and you were started on antibiotics. You were 
seen by physical therapy who recommended a couple visits at 
home. A mass was found around yoor tongue which will need 
further evaluation. 

Please take your medications and keep your appointments as 
listed below. 

It was pleasure taking care of you, 

-Your ___ Team
 
Followup Instructions:
___